US06172085B2
4-Benzyloxypiperidine hydrochloride
To a solution of tert-butyl 4-hydroxy-1-piperidinecarboxylate (5.0 g) in tetrahydrofuran (50 mL) was added sodium hydride (1.0 g, a 66% dispersion in liquid paraffin) and the mixture was stirred at room temperature for 10 minutes. Then, 3.6 mL of benzyl bromide was added and the mixture was refluxed for 1 hour. This reaction mixture was poured into aqueous ammonium chloride solution and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was dissolved in 20 mL of ethyl acetate, followed by addition of 15 mL of 4 N-HCl solution in ethyl acetate, and the mixture was stirred at room temperature for 2 hours. The precipitate was collected to provide 4.4 g of the title compound.

reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | 5.0 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 3.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-Benzyloxypiperidine hydrochloride | 4.4 g, Yield 77% | Cl.C(C1=CC=CC=C1)OC1CCNCC1 | InChI=1S/C12H17NO.ClH/c1-2-4-11(5-3-1)10-14-12-6-8-13-9-7-12;/h1-5,12-13H,6-10H2;1H
